US07511041B2
(4) 3-Methoxy-4-(methoxymethoxy)-2-nitrobenzonitrile
A mixture of 4-hydroxy-3-methoxy-2-nitrobenzonitrile 1.00 g, chloromethyl methyl ether 0.47 mL (6.18 mmol) and potassium carbonate 3.56 g (25.8 mmol) in N,N-dimethylformamide 10 mL was stirred at 50° C. for 2 hours. The reaction mixture was poured into water and extracted into diethyl ether. The organic layer was washed with brine, dried over MgSO4, filtrated and the solvent was evaporated. Silica gel chromatography (n-hexane/AcOEt=4/1) afforded the title compound 1.03 g as colorless solid. Yield 83.5%.

reactant | 4-hydroxy-3-methoxy-2-nitrobenzonitrile | 1.00 g | OC1=C(C(=C(C#N)C=C1)[N+](=O)[O-])OC | C8H6N2O4
reactant | chloromethyl methyl ether | 6.18 mmol, 0.47 mL | COCCl | C2H5ClO
reactant | potassium carbonate | 25.8 mmol, 3.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Methoxy-4-(methoxymethoxy)-2-nitrobenzonitrile | 1.03 g, Yield 83.5% | COC=1C(=C(C#N)C=CC1OCOC)[N+](=O)[O-] | C10H10N2O5
